US07781435B2
(S)-2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(3-methyl-oxetan-3-ylmethyl)-1H-imidazol-4-yl]-amide
1-(3-Methyl-oxetan-3-ylmethyl)-4-nitro-1H-imidazole was reduced and then coupled with 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid (U.S. Ser. No. 11/078,898 filed Mar. 11, 2005) to afford the title compound: MS 421.3 m/z (M+1).

reactant | 1-(3-Methyl-oxetan-3-ylmethyl)-4-nitro-1H-imidazole | CC1(COC1)CN1C=NC(=C1)[N+](=O)[O-] | C8H11N3O3
reactant | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid | FC=1C=C(C=C(C1)F)CC(=O)NC(C(=O)O)CCC | C13H15F2NO3
product | (S)-2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(3-methyl-oxetan-3-ylmethyl)-1H-imidazol-4-yl]-amide | CC1(COC1)CN1C=NC(=C1)NC([C@H](CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C21H26F2N4O3
